US08420633B2
trans-8-Chloro-1-(4-phenyl-cyclohexyl)-5-pyridin-2-yl-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene
A mixture of trans-8-chloro-1-(4-phenyl-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene hydrochloride (0.10 g, 0.24 mmol), 2-bromopyridine (0.057 g, 0.36 mmol) and cetyltrimethylammonium bromide (0.0040 g, 0.012 mmol) in toluene (2 ml) and 50% aqueous sodium hydroxide solution (0.04 ml) was degassed by freeze/thaw cycles. Addition of bis(tri-t-butylphosphine)palladium (0.012 g, 0.024 mmol) was followed by stirring at 90° C. for 18 h. The reaction mixture was partitioned between water (50 ml) and dichloromethane (50 ml). The layers were separated. The aqueous layer was extracted with one 50-ml portion of dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash-chromatography with n-heptane/ethyl acetate and ethyl acetate/2-propanol as eluent gave the title compound (0.004 g, 4%) as colorless oil.

reactant | trans-8-chloro-1-(4-phenyl-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene hydrochloride | 0.24 mmol, 0.10 g | Cl.ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1
reactant | 2-bromopyridine | 0.36 mmol, 0.057 g | BrC1=NC=CC=C1 | C5H4BrN
catalyst | cetyltrimethylammonium bromide | 0.012 mmol, 0.0040 g | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | 0.04 ml | [OH-].[Na+]
catalyst | bis(tri-t-butylphosphine)palladium | 0.024 mmol, 0.012 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | trans-8-Chloro-1-(4-phenyl-cyclohexyl)-5-pyridin-2-yl-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 0.004 g, 4% | ClC1=CC2=C(N3C(=NN=C3CN(C2)C2=NC=CC=C2)[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1 | C27H26ClN5
